US04957928
33.2 g (0.1 mol) of 3-[2-(p-toluenesulphonyloxy)ethyl]chroman, 14.0 g of N-(2-methoxycarbonylethyl)-amine hydrochloride and 39 g of N-ethyl-N,N-diisopropylamine are dissolved under nitrogen in 750 ml of dimethylformamide and the solution is stirred for 16 hours at room temperature. The reaction mixture is subsequently concentrated to approximately 200 ml under reduced pressure, 500 ml of water are then added and the whole is extracted by shaking three times with 150 ml of dichloromethane each time. The combined organic phases are dried over sodium sulphate and concentrated to dryness by evaporation. By adding ethanolic hydrochloric acid and cooling, N-[2-(chroman-3-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride having a melting point of 190°-192° is obtained.

reactant | 3-[2-(p-toluenesulphonyloxy)ethyl]chroman | 0.1 mol, 33.2 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1COC2=CC=CC=C2C1)C | C18H20O4S
reactant | N-(2-methoxycarbonylethyl)-amine hydrochloride | 14.0 g | Cl.COC(=O)CCN
reactant | N-ethyl-N,N-diisopropylamine | 39 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | N-[2-(chroman-3-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride | Cl.O1CC(CC2=CC=CC=C12)CCNCCC(=O)OC | InChI=1S/C15H21NO3.ClH/c1-18-15(17)7-9-16-8-6-12-10-13-4-2-3-5-14(13)19-11-12;/h2-5,12,16H,6-11H2,1H3;1H
